** sch_path: /foss/designs/ihp_INI_project/xschem_bias_gen/untitled.sch
**.subckt untitled
x1 MBAS[1] MBAS[0] analog_bus_pin_source
R1 net1 0 1k
R2 test 0 1k
R3 MBAS[1] net1 1k
R4 MBAS[0] test 1k
**** begin user architecture code


.param temp=27

.options abstol=1e-16
.options gmin=1e-16
.control




    tran 1m 10m


    plot test

.endc


**** end user architecture code
**.ends

* expanding   symbol:  test_bench/analog_bus_pin_source.sym # of pins=1
** sym_path: /foss/designs/ihp_INI_project/xschem_bias_gen/test_bench/analog_bus_pin_source.sym
** sch_path: /foss/designs/ihp_INI_project/xschem_bias_gen/test_bench/analog_bus_pin_source.sch
.subckt analog_bus_pin_source MBIAS[1] MBIAS[0]
*.opin MBIAS[1],MBIAS[0]
V1 MBIAS[0] 0 3
V2 MBIAS[1] 0 1
.ends

.end
